US05712300
Preparation of (S)tert-Butyl 3-(2-methylpropyl)-2-oxo-3-pyrrolidineacetate
A solution of (S)-tert-butyl N-tert-butyloxycarbonyl-3-(2-methylpropyl)-2-oxo-3-pyrrolidineacetate (193 mg, 0.543 mmol), magnesium methoxide (3.0 mL, 6-10 wt. % in MeOH), and MeOH (2.7 mL) is stirred at room temperature for 16 hours. The solution is poured into water (15 mL) and the mixture acidified with acetic acid. The mixture is extracted several times with CH2Cl2, the combined filtrates dried (MgSO4), filtered, and concentrated to give 124 mg (89%) of the title compound as an oil.

reactant | (S)-tert-butyl N-tert-butyloxycarbonyl-3-(2-methylpropyl)-2-oxo-3-pyrrolidineacetate | 0.543 mmol, 193 mg | C(C)(C)(C)OC(=O)N1C([C@@](CC1)(CC(=O)OC(C)(C)C)CC(C)C)=O | C19H33NO5
reactant | magnesium methoxide | 3.0 mL | C[O-].[Mg+2].C[O-]
reactant | MeOH | 2.7 mL | CO | CH4O
reactant | water | 15 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (S)tert-Butyl 3-(2-methylpropyl)-2-oxo-3-pyrrolidineacetate | 124 mg, 89% | CC(C[C@@]1(C(NCC1)=O)CC(=O)OC(C)(C)C)C | C14H25NO3
